US07897609B2
Copper (I) iodide (0.06 g, 0.53 mmol), potassium phosphate (1.18 g, 5.56 mmol), and imidazole (0.22 g, 3.17 mmol) were added to a glass tube. Sequential addition of 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine (1.0 g, 2.64 mmol), trans-1,2-diaminocyclohexane (0.06 g, 0.53 mmol) and dioxane (9 mL) followed. The tube was flushed with nitrogen, sealed, and heated to 110° C., and the reaction mixture was stirred for 10 days. The reaction mixture was then diluted with a 1:1 mixture of chloroform and methanol (50 mL) and filtered through CELITE filter aid. The filtrate was concentrated under reduced pressure to give a black liquid, which was purified by automated flash chromatography (using a silica gel cartridge, eluting with CMA:chloroform ranging in ratios from 0:100 to 20:80), and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 0.18 g of 2-(ethoxymethyl)-7-(imidazol-1-yl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine as a tan solid, mp 175-176° C.

reactant | potassium phosphate | 5.56 mmol, 1.18 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | imidazole | 3.17 mmol, 0.22 g | N1C=NC=C1 | C3H4N2
reactant | 7-bromo-2-(ethoxymethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 2.64 mmol, 1.0 g | BrC=1C=NC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)COCC | C16H20BrN5O
reactant | trans-1,2-diaminocyclohexane | 0.53 mmol, 0.06 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
catalyst | Copper (I) iodide | 0.53 mmol, 0.06 g | [Cu]I
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | 2-(ethoxymethyl)-7-(imidazol-1-yl)-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 0.18 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=NC23)N2C=NC=C2)N)N1)CC(C)C | C19H23N7O
